US08865712B2
h) 5-(6-Bromo-pyridin-2-yl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
A mixture of 5-(6-bromo-pyridin-2-yl)-5-methyl-morpholine-3-thione (1.4 g, 4.88 mmol) in 7N NH3/MeOH (20.89 ml, 146 mmol) was stirred at 50° C. for 3 d in an autoclave. The reaction mixture was evaporated to dryness and purified by FC (gradient cyclohexane:EtOAc 75:25 to 50:50, then +10% Et3N, finally MeOH+10% Et3N) to obtain the crude title compound that was further purified by washing with DCM. HPLC RtH4=0.54 min; ESIMS: 270, 272 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 8.51 (br s, 2H), 7.83-7.79 (m, 1H), 7.63-7.61 (m, 2H), 4.45 (s, 2H), 4.11 (d, 1H), 3.84 (d, 1H), 1.51 (s, 3H).

reactant | 5-(6-bromo-pyridin-2-yl)-5-methyl-morpholine-3-thione | 4.88 mmol, 1.4 g | BrC1=CC=CC(=N1)C1(COCC(N1)=S)C | C10H11BrN2OS
reactant | NH3 MeOH | 146 mmol, 7N, 20.89 ml | N.CO
product | 5-(6-Bromo-pyridin-2-yl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | BrC1=CC=CC(=N1)C1(N=C(COC1)N)C | C10H12BrN3O
